US07842688B2
a) tert-Butyl 3-[4-acetylamino-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.380 g of tert-butyl 3-[4-amino-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 0.168 ml of triethylamine and 10.0 ml of dichloromethane is cooled to 0° C. and admixed slowly with the solution of 0.090 ml of acetyl chloride in 1.0 ml of dichloromethane. The reaction solution is stirred over 2 hours, poured onto ice-water (20 ml) and extracted with tert-butyl methyl ether (2×20 ml). The organic phases are washed with successively with water (20 ml) and brine (20 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.10 (1:1 EtOAc-heptane); Rt=5.73.

reactant | tert-butyl 3-[4-amino-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.380 g | NC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)OCCCOC | C38H52N2O8
reactant | acetyl chloride | 0.090 ml | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | 0.168 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | tert-Butyl 3-[4-acetylamino-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)OCCCOC | C40H54N2O9
